Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Bactrim DS / Erythromycin Base / Wellbutrin / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
___ disease
 
Major Surgical or Invasive Procedure:
___ - Left DBS stage 1 and 2

 
History of Present Illness:
___ right-handed woman who has suffered with ___ 
disease since ___.  At that time she developed a tremor that 
involved both the right hand and
the right leg.  She was referred to Dr. ___ who 
diagnosed her with ___ disease in ___.  She 
was trialed on a number of medications none of which improved 
her symptoms adequately.  In the ___ she was started on 
levodopa, which improved her tremor somewhat.  Over time her
levodopa requirements have escalated in control of her tremor 
has been less satisfactory.  She has almost exclusively 
right-sided symptoms.  She now requires medications every 2 
hours.  She has tremors of the right hand and right foot right 
foot, as well as shoulder stiffness and off state dystonia of 
both the hand and foot.  She denies any gait imbalance or 
difficulties walking.  She denies hallucinations.  It is for 
better control of her right-sided symptoms that she wishes to 
consider ___ brain stimulation surgery.

 
Past Medical History:
___ disease, Graves' disease (status post ablation), 
asthma, depression, oral herpes, and surgery for right wrist 
bursitis
 
Social History:
___
Family History:
Her family history is significant for cancer, Crohn's disease,
heart disease, COPD, and back problems.
 
Physical Exam:
On Discharge
------------
General:
VS:
24 HR Data (last updated ___ @ 755)
    Temp: 97.5 (Tm 98.3), BP: 125/80 (95-125/56-80), HR: 63
(61-64), RR: 18 (___), O2 sat: 95% (95-98), O2 delivery: Ra  

Bowel Regimen: [x]Yes [ ]No    Last BM: PTA

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 3-2mm
EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No   - Notable RUE tremor, worst at the
hand  

Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: 
          [x]Clean, dry, intact 

 
Pertinent Results:
Please see OMR for pertinent lab/imaging studies.
 
Brief Hospital Course:
#DBS stage ___
On ___ the patient presented to pre-op holding for elective 
left internal globus pallidus DBS placement, stage 1 and 2. She 
was taken to the OR for the procedure which was uncomplicated. 
Please see OMR for full operative note for greater detail. 
Intra-operative CT was without hemorrhage. She was extubated in 
the OR and transferred to PACU for close monitoring. She 
remained hemodynamically and neurologically stable and was 
transferred to the floor. Post-operative MRI was performed which 
showed good placement of the DBS electrode. On ___, her pain 
was well controlled, she was able to perform all ADLs at 
baseline and ambulated well. She was discharged home with ___ 
services without incident.
 
Medications on Admission:
albuterol 1 puff q4-6hrs prn SOB/wheeze
Carbidopa 25mg 5x/day
Carbidopa-levodopa 25mg-100mg as directed
citalopram 40mg qd
levothyroxine 112mcg qd 6x/week
lorazepam 0.25mg qd prn anxiety
valacyclovir 1g qd prn cold sore
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Codeine Sulfate ___ mg PO Q4H:PRN pain 
RX *codeine sulfate 15 mg 1 - 2 tablet(s) by mouth q6hr Disp 
#*40 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Senna 17.2 mg PO QHS  
5.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, wheeze  
6.  Carbidopa-Levodopa ___ TAB PO 5X/DAY  
7.  carbidopa 25 mg oral 5X/DAY  
8.  Citalopram 40 mg PO DAILY  
9.  Levothyroxine Sodium 112 mcg PO 6X/WEEK (___)  

10.  LORazepam 0.5 mg PO DAILY:PRN anxiety   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
___ disease, refractory to medication
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ Brain ___ 

Surgery

• You underwent both Stage I & II.

Activity

• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours.

• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days.

• You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much too soon.

• Do not go swimming or submerge yourself in water for fourteen 
(14) days after your procedure.

• The dressing covering your head incision(s) may be removed 
after 48 hours. You may use a damp washcloth to remove any dried 
blood or iodine from your skin but do not get your head wet in 
the shower until your staples or sutures are removed.

• The incision on your chest has absorbable sutures and skin 
sealant. You may take a shower and get your chest wet after 5 
days.

Medications

• Resume your normal ___ medications. The neurologist 
programming your device may adjust your medications once 
programming begins. 

• Take any new medications (i.e. pain medications) as directed.

• If you were on a medication such as Coumadin (Warfarin), or 
Plavix (Clopidogrel), or Aspirin, do not take this until cleared 
by your Neurosurgeon. 

• Do not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. until follow up.

• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

• Mild tenderness along the incisions. 

• Soreness in your arms from the intravenous lines.

• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Call Your Doctor at ___ for:

• Severe pain, swelling, redness or drainage from the incision 
site. 

• Fever greater than 101.5 degrees Fahrenheit

• Severe Constipation

• Blood in your stool or urine

• Nausea and/or vomiting

• Extreme sleepiness

• Severe headaches not relieved by pain relievers

• Seizures

• Any new problems with your vision or ability to speak

• Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___